US09145380B2
2,3-Dichloro-N-(3,5-difluoro-2-sulfamoylphenyl)benzenesulfonamide
The title compound was synthesized as described for Example 194 a) in 7% yield, starting from 2-amino-4,6-difluorobenzenesulfonamide and 2,3-dichlorobenzene-1-sulfonyl chloride (1.5 equiv.). Purification by preparative HPLC.

reactant | 2-amino-4,6-difluorobenzenesulfonamide | NC1=C(C(=CC(=C1)F)F)S(=O)(=O)N | C6H6F2N2O2S
reactant | 2,3-dichlorobenzene-1-sulfonyl chloride | 1.5 equiv. | ClC1=C(C=CC=C1Cl)S(=O)(=O)Cl | C6H3Cl3O2S
product | 2,3-Dichloro-N-(3,5-difluoro-2-sulfamoylphenyl)benzenesulfonamide | 7% yield | ClC1=C(C=CC=C1Cl)S(=O)(=O)NC1=C(C(=CC(=C1)F)F)S(N)(=O)=O | C12H8Cl2F2N2O4S2
